US03953496
By the procedure similar to that described in Example 15, methyl 2,5-diaminobenzoate was condensed with salicylic acid with the aid of phosphorus trichloride to obtain methyl 2,5-bis(salicylamido)-benzoate (Yield; 54%). The product was confirmed to be identical to that obtained in Example 4.

reactant | methyl 2,5-diaminobenzoate | NC1=C(C(=O)OC)C=C(C=C1)N | C8H10N2O2
reactant | salicylic acid | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
product | methyl 2,5-bis(salicylamido)-benzoate | Yield; 54% | C(C=1C(O)=CC=CC1)(=O)NC1=C(C(=O)OC)C=C(C=C1)NC(C=1C(O)=CC=CC1)=O | C22H18N2O6
